US06841549B1
1) Synthesis of N4-(2-propenyl)-6-chloro-4,5-pyrimidine diamine
A solution of 8 g 5-amino-4,6-dichloropyrimidine, 5 ml propargylamine and 42 ml diisopropyl ethyl amine in 100 ml butanol was stirred for 6 hours and 10 minutes in a nitrogen atmosphere at 140° C. Ethyl acetate and H2O were added to the reaction mixture, and this mixture was filtered through Celite, and the residue was extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, and the residue was purified by silica gel column chromatography (eluted with ethyl acetate:n-hexane=1:1), and the objective fractions were concentrated. The residue was crystallized from diethyl ether, to give the title compound (4.8 g, 54%) as pale brown crystals.

reactant | 5-amino-4,6-dichloropyrimidine | 8 g | NC=1C(=NC=NC1Cl)Cl | C4H3Cl2N3
reactant | propargylamine | 5 ml | C(C#C)N | C3H5N
reactant | diisopropyl ethyl amine | 42 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | butanol | 100 ml | C(CCC)O | C4H10O
solvent | H2O | O | H2O
product | N4-(2-propenyl)-6-chloro-4,5-pyrimidine diamine | 4.8 g, 54% | C(C=C)NC1=NC=NC(=C1N)Cl | C7H9ClN4
